US05262086
2) Synthesis of (R)-(+)-4-octyloxyphenyl 4'-(1,1,1-trifluoro-2-octyloxycarbonyl)biphenyl-4-carboxylate
To a solution of 4'-(1,1,1-trifluoro-2-octyloxycarbonyl)biphenyl-4-carbonylchloride (1.3 g) and 4-n-octyloxyphenol (1.0 g) in methylene chloride (40 ml) were added triethylamine (0.5 g) and dimethylaminopyridine (0.032 g). The mixture was stirred for 24 hours at room temperature before it was poured in water. Extraction was made with methylene chloride and the extract was washed with dilute aqueous sodium carbonate solution and water, in this order and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by silica gel column chromatography (developer hexane ethyl acetate 10 0.5) and recrystallized from ethanol to obtain the titled compound (0.8 g).

reactant | 4'-(1,1,1-trifluoro-2-octyloxycarbonyl)biphenyl-4-carbonylchloride | 1.3 g | FC(C(CCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl)(F)F | C22H22ClF3O3
reactant | 4-n-octyloxyphenol | 1.0 g | C(CCCCCCC)OC1=CC=C(C=C1)O | C14H22O2
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.032 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (R)-(+)-4-octyloxyphenyl 4'-(1,1,1-trifluoro-2-octyloxycarbonyl)biphenyl-4-carboxylate | 0.8 g | FC([C@@H](CCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCCC)(F)F | C36H43F3O5
